US08119633B2
Methyl 2-(3,4-dichloro-N-methylphenylsulfonamido)benzoate
Methyl 2-(3,4-dichlorophenylsulfonamido)benzoate (21.3 g, 59.1 mmol) was dissolved in acetone (300 ml), and K2CO3 (16.3 g, 118.3 mmol, 2 eq.) was added thereto. Methyl iodide (7.4 ml, 118.3 mmol, 2 eq.) was then added, and the suspension was heated overnight at 40° C. The solid materials were filtered off and the filtrate was concentrated using a rotary evaporator. Purification was carried out by filtration over silica gel (DCM).

reactant | Methyl 2-(3,4-dichlorophenylsulfonamido)benzoate | 59.1 mmol, 21.3 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC1=C(C(=O)OC)C=CC=C1 | C14H11Cl2NO4S
reactant | K2CO3 | 118.3 mmol, 16.3 g, 2 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | Methyl iodide | 118.3 mmol, 7.4 ml, 2 eq. | CI | CH3I
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | Methyl 2-(3,4-dichloro-N-methylphenylsulfonamido)benzoate | ClC=1C=C(C=CC1Cl)S(=O)(=O)N(C)C1=C(C(=O)OC)C=CC=C1 | C15H13Cl2NO4S
